US04406897
4-Methylhydrazinyl-1-methyl-6-phenyl-1,2-dihydro-1,3,5-triazin-2-one
1.71 ml of methylhydrazine dissolved in 30 ml of methanol are added to a stirred solution of 4-methoxy-1-methyl-6-phenyl-1,2-dihydro-1,3,5-triazin-2-one in 100 ml of methanol. The mixture is stirred for one hour at RT and then refluxed for four hours. The reaction mixture is concentrated and the triazinone precipitated from ethyl acetate and hexane, filtered, washed with ether, and dried to yield 1.95 g of the desired product.

reactant | methylhydrazine | 1.71 ml | CNN | CH6N2
reactant | 4-methoxy-1-methyl-6-phenyl-1,2-dihydro-1,3,5-triazin-2-one | COC1=NC(N(C(=N1)C1=CC=CC=C1)C)=O | C11H11N3O2
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 4-Methylhydrazinyl-1-methyl-6-phenyl-1,2-dihydro-1,3,5-triazin-2-one | 1.95 g | CNNC1=NC(N(C(=N1)C1=CC=CC=C1)C)=O | C11H13N5O
